US07030135B2
3-Bromo-5chloro-N-(5,5-dimethyl-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)2-thiophenesulfonamide
The title compound was prepared from 2-amino-5,5-dimethyl-5,6-dihydro-1,3-benzothiazol-7(4H)-one (53 mg) and 3-bromo-5-chlorothiophene-2-sulfonyl chloride (80 mg) as described in the synthetic method to give a white solid (62.2 mg) with purity >90%: MS (pos) m/z 455.2, 457.2.

reactant | 2-amino-5,5-dimethyl-5,6-dihydro-1,3-benzothiazol-7(4H)-one | 53 mg | NC=1SC2=C(N1)CC(CC2=O)(C)C | C9H12N2OS
reactant | 3-bromo-5-chlorothiophene-2-sulfonyl chloride | 80 mg | BrC1=C(SC(=C1)Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | 3-Bromo-5chloro-N-(5,5-dimethyl-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)2-thiophenesulfonamide | BrC1=C(SC(=C1)Cl)S(=O)(=O)NC=1SC2=C(N1)CC(CC2=O)(C)C | C13H12BrClN2O3S3
